US04175203
Step A(1): Preparation of Ethyl o-(cyanomethyl)cinnamate
A solution of ethyl o-(bromomethyl)cinnamate (94.1 g., 0.35 mole), and sodium cyanide (20.6 g., 0.42 mole) in ethanol (450 ml.) is heated at reflux for 3 hours. About half of the ethanol is removed at reduced pressure. To the residue is added 500 ml. of water. The oily product is taken up in ether, washed with water, and dried over magnesium sulfate. Evaporation of the ether affords the title compound as an oil.

reactant | ethyl o-(bromomethyl)cinnamate | 0.35 mole, 94.1 g | BrCC1=C(C=CC(=O)OCC)C=CC=C1 | C12H13BrO2
reactant | sodium cyanide | 0.42 mole, 20.6 g | [C-]#N.[Na+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | Ethyl o-(cyanomethyl)cinnamate | C(#N)CC1=C(C=CC(=O)OCC)C=CC=C1 | C13H13NO2
